US08053453B2
3) Synthesis of 5-methoxycarbonyl-2-thiophenecarboxylic acid N′-(1-(1-(4-tert-butylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide
54.5 mg (0.20 mmol) of 1-(1-(4-tert-butylphenyl)-5-hydroxy-3-methyl-1H-pyrazol-4-yl)-ethanone and 40.0 mg (0.20 mmol) of 5-methoxycarbonyl-2-thiophenecarboxylic acid hydrazide were dissolved in 2.0 mL of DMF and stirred at 110° C. for 12 hours. After cooling, the solvent was removed by evaporation, and the crude product was washed with ethyl acetate and collected by filtration to obtain 32.0 mg of the desired product as a yellow solid (yield 35%).

reactant | 1-(1-(4-tert-butylphenyl)-5-hydroxy-3-methyl-1H-pyrazol-4-yl)-ethanone | 0.20 mmol, 54.5 mg | C(C)(C)(C)C1=CC=C(C=C1)N1N=C(C(=C1O)C(C)=O)C | C16H20N2O2
reactant | 5-methoxycarbonyl-2-thiophenecarboxylic acid hydrazide | 0.20 mmol, 40.0 mg | COC(=O)C1=CC=C(S1)C(=O)NN | C7H8N2O3S
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 5-methoxycarbonyl-2-thiophenecarboxylic acid N′-(1-(1-(4-tert-butylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | 32.0 mg, yield 35% | C(C)(C)(C)C1=CC=C(C=C1)N1N=C(C(C1=O)=C(C)NNC(=O)C=1SC(=CC1)C(=O)OC)C | C23H26N4O4S
